US07642264B2
3′-[4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-biphenyl-3-sulfonic acid tert-butylamide was prepared from 2-(3-bromo-phenyl)-4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidine (example E.102) (0.40 g, 1.0 mmol) and commercially available 3-(tert.-butylsulfamoyl)-phenylboronic acid (0.31 g, 1.2 mmol) according to the general procedure VI. Obtained as white foam (0.49 g), which was subsequently deprotected.

reactant | 2-(3-bromo-phenyl)-4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidine | 1.0 mmol, 0.40 g | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC=C(C=C1)F)C(F)(F)F | C17H9BrF4N2
reactant | 3-(tert.-butylsulfamoyl)-phenylboronic acid | 1.2 mmol, 0.31 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | 3′-[4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-biphenyl-3-sulfonic acid tert-butylamide | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C1=NC(=CC(=N1)C1=CC=C(C=C1)F)C(F)(F)F | C27H23F4N3O2S
